US05292891
A mixture of 940 mg (4.26 mmol) of (-)-2,2-dimethyl-6-(3-chloro-2-hydroxypropyl)-1,3-dioxin-4-one (98% ee), 882 mg (6.39 mmol) of potassium carbonate and 10 ml of methanol was stirred at room temperature for 12 hours. After completion of the reaction, methanol was distilled off, and the resultant residue was neutralized with 10% HCl and then extracted with ethyl acetate, followed by drying over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was subjected to column chromatography (an eluent of hexane:ethyl acetate=3:1), thereby obtaining 510 mg (yield 74%) of (-)-6-chloromethyltetrahydropyran-2,4-dione.

reactant | (-)-2,2-dimethyl-6-(3-chloro-2-hydroxypropyl)-1,3-dioxin-4-one | 4.26 mmol, 940 mg | CC1(OC(=CC(O1)=O)CC(CCl)O)C | C9H13ClO4
reactant | potassium carbonate | 6.39 mmol, 882 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (-)-6-chloromethyltetrahydropyran-2,4-dione | 510 mg, yield 74% | ClCC1CC(CC(O1)=O)=O | C6H7ClO3
